US07494992B2
Preparation 36: Tricyclo[5.2.1.02,6]dec-3-ene-8,9-diol
A slurry of tricyclo[5.2.1.02,6]deca-3,8-diene (26.5 g, 0.2 mol), trimethylamine N-oxide dihydrate (22.3 g, 0.2 mol) and osmium tetroxide (2.5 wt % solution in 2-methyl-2-propanol, 2 □l) in dichloromethane (200 ml) was stirred for 18 h. A further portion of osmium tetroxide (2.5 wt % solution in 2-methyl-2-propanol, ca. 2 □l) was added, water (25 ml) and acetone (50 ml) was added and the reaction mixture was stirred for a further 72 h. Pyridine (0.5 ml) and tetrabutylammonium acetate (0.5 g) were added. Florisil (10 g) and aqueous sodium hydrogensulfite solution was added and the reaction mixture was stirred for 20 min. The reaction mixture was filtered and the product was extracted with dichloromethane (3 times). The combined organic extracts were washed with water, brine and then concentrated to give an oil. The crude oil was purified by flash chromatography eluting with ethyl acetate:hexane (10:90) and then ethyl acetate, to give a waxy solid (6.5 g, 19%).

reactant | tricyclo[5.2.1.02,6]deca-3,8-diene | 0.2 mol, 26.5 g | C12C3C=CCC3C(C=C1)C2 | C10H12
reactant | trimethylamine N-oxide dihydrate | 0.2 mol, 22.3 g | O.O.C[N+](C)(C)[O-]
reactant | Florisil | 10 g | [O-][Si](=O)[O-].[Mg+2]
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium acetate | 0.5 g | C(C)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | Pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
product | Tricyclo[5.2.1.02,6]dec-3-ene-8,9-diol | 6.5 g, 19% | C12C3C=CCC3C(C(C1O)O)C2 | C10H14O2
